US08133884B2
Step 2: Preparation of Ethyl 5-(13-cyclohexyl-10-((isopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepin-6-yl)-1-cyclopropyl-3-isopropyl-1H-pyrazole-4-carboxylate
EDC (151 mg, 0.790 mmol) was added to a stirring solution of 13-cyclohexyl-6-(1-cyclopropyl-4-(ethoxycarbonyl)-3-isopropyl-1H-pyrazol-5-yl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (320 mg, 0.527 mmol), propane-2-sulfonamide (227 mg, 1.843 mmol), DMAP (193 mg, 1.58 mmol) in dichloroethane (5 mL) at room temperature. The reaction was allowed to stir overnight. The mixture was diluted with EtOAc and washed with 1M HCl, sat NaHCO3 and Brine. The organic phase was dried over Na2SO4, filtered and concentrated to give the expected product (375 mg, 0.526 mmol, quant) as a light brown residue consistent by LCMS.

reactant | EDC | 0.790 mmol, 151 mg
reactant | 13-cyclohexyl-6-(1-cyclopropyl-4-(ethoxycarbonyl)-3-isopropyl-1H-pyrazol-5-yl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 0.527 mmol, 320 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(C(=NN2C2CC2)C(C)C)C(=O)OCC)C=C(C=C1)OC)C(=O)O | C37H41N3O5
reactant | propane-2-sulfonamide | 1.843 mmol, 227 mg | CC(C)S(=O)(=O)N | C3H9NO2S
catalyst | DMAP | 1.58 mmol, 193 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 5-(13-cyclohexyl-10-((isopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepin-6-yl)-1-cyclopropyl-3-isopropyl-1H-pyrazole-4-carboxylate | 0.526 mmol, 375 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(C(=NN2C2CC2)C(C)C)C(=O)OCC)C=C(C=C1)OC)C(NS(=O)(=O)C(C)C)=O | C40H48N4O6S
